US07208633B2
bis(4-fluorophenyl)phosphine-borane complex
Under an argon atmosphere, a solution of cerium chloride (9.31 g, 3.0 equivalents) in THF (25 mL) was stirred at room temperature (25° C.) for 30 min. Sodium borohydride (1.48 g, 3.1 equivalents) was added, and the mixture was stirred at room temperature for 1 hr. Then bis(4-fluorophenyl)phosphine oxide (3.0 g, 12.6 mmoL) synthesized in Reference Example 5-and lithium aluminum hydride (0.57 g, 1.2 equivalents) were successively added at-5° C. and the mixture was stirred at room temperature for 3 hrs. Water (10 mL) was added at 3° C. and then toluene (30 mL) and 6M-HCl (20 mL) were added and the mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the aqueous layer was extracted with toluene (20 mL). The combined organic layer was washed with 5% aqueous NaCl solution (20 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (alumina 25 g, n-hexane/ethyl acetate=20/1). The residue was recrystallized from heptane to give the title compound (0.6 g, white crystals). yield 20.4%. melting point: 71.7° C.

reactant | cerium chloride | 9.31 g, 3.0 equivalents | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 1.48 g, 3.1 equivalents | [BH4-].[Na+]
reactant | bis(4-fluorophenyl)phosphine oxide | 3.0 g | FC1=CC=C(C=C1)P(C1=CC=C(C=C1)F)=O | C12H9F2OP
reactant | lithium aluminum hydride | 0.57 g, 1.2 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 10 mL | O | H2O
product | bis(4-fluorophenyl)phosphine borane | 0.6 g, yield 20.4% | FC1=CC=C(C=C1)PC1=CC=C(C=C1)F.B | InChI=1S/C12H9F2P.BH3/c13-9-1-5-11(6-2-9)15-12-7-3-10(14)4-8-12;/h1-8,15H;1H3
